US06320050B1
A solution of 3-cyclopentyl-2-(4-nitro-phenyl)-propionic acid ethyl ester (7.37 g, 25.3 mmol) in ethyl acetate (316 mL) was treated with 10% palladium on activated carbon. The reaction mixture was stirred under hydrogen gas at 60 psi at 25° C. for 18 h. The catalyst was then filtered off through a pad of celite (ethyl acetate). The filtrate was concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 50/50 hexanes/ethyl acetate) afforded 2-(4-amino-phenyl)-3-cyclopentyl-propionic acid ethyl ester (3.52 mg, 53.3%) as a yellow oil: EI-HRMS m/e calcd for C16H23NO2 (M+) 261.1729 found 261.1727.

reactant | 3-cyclopentyl-2-(4-nitro-phenyl)-propionic acid ethyl ester | 25.3 mmol, 7.37 g | C(C)OC(C(CC1CCCC1)C1=CC=C(C=C1)[N+](=O)[O-])=O | C16H21NO4
solvent | ethyl acetate | 316 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on activated carbon | [Pd] | Pd
product | 2-(4-amino-phenyl)-3-cyclopentyl-propionic acid ethyl ester | 3.52 mg, 53.3% | C(C)OC(C(CC1CCCC1)C1=CC=C(C=C1)N)=O | C16H23NO2
